US08486939B2
Similarly to Example 63, reaction of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole and imidazole at 120° C. for 1 hr gave 2-(difluoromethyl)-1-[4-(1H-imidazol-1-yl)-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-methoxy-1H-benzimidazole in 71% yield: mp (CH2Cl2/hexanes) 272-275° C.; 1H NMR (DMSO-d6) δ 8.74 (s, 1H), 8.04 (t, J=1.4 Hz, 1H), 8.00 (d, J=7.8 Hz, 1H), 7.78 (t, JHF=52.5 Hz, 1H), 7.50 (t, J=8.3 Hz, 1H), 7.22 (dd, J=1.5, 0.8 Hz, 1H), 7.02 (d, J=7.8 Hz, 1H), 4.03 (m, 2H), 4.00 (s, 3H), 3.94 (m, 2H), 3.80-3.75 (m, 4H); Anal. Calcd. for C19H18F2N8O2: C, 53.3; H, 4.2: N, 26.2. Found: C, 53.6; H, 4.3; N, 26.7%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C16H15ClF2N6O2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 2-(difluoromethyl)-1-[4-(1H-imidazol-1-yl)-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-methoxy-1H-benzimidazole | 71% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1C=NC=C1)N1CCOCC1)C=CC=C2OC)F | C19H18F2N8O2
